US04548948
(B) Preferred method for the preparation of 6-bromo-4-chromanone (D11)
4-Bromophenol (105 g, 0.61 mole) was converted into methyl(4-bromophenoxy)propanoate by the method referred to in Description 11A. This ester (125 g, 0.48 mole) was then added slowly to concentrated sulphuric acid (500 ml) and the resulting yellow solution stirred at room temperature for 30 minutes. This solution was poured slowly into ice/water (5 liters) and the mixture extracted using ethyl acetate (2×700 ml). The organic solution was washed with 10% sodium carbonate solution (2×300 ml) and brine (1×300 ml), dried (Na2SO4) and evaporated to dryness to give a pale yellow solid. This was recrystallised from ethyl acetate/petroleum ether (60°-80° C.) to give the title compound as a white crystalline solid (43.4 g, 31%). M.p. 79°-80°.

reactant | 4-Bromophenol | 0.61 mole, 105 g | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | methyl(4-bromophenoxy)propanoate | CC(C(=O)[O-])(C)OC1=CC=C(C=C1)Br
reactant | sulphuric acid | 500 ml | S(O)(O)(=O)=O | H2O4S
product | 6-bromo-4-chromanone | 43.4 g, 31% | BrC=1C=C2C(CCOC2=CC1)=O | C9H7BrO2
